US07169773B2
5,7-dimethyl-3,4-dihydronaphthalen-1(2H)-one oxime
A solution of 5,7-Dimethyl-1-tetralone (5.0 g) in ethanol (100 mL) was treated with hydroxylamine hydrochloride (2.2 g) and sodium carbonate monohydrate (3.6 g). The reaction mixture was heated overnight at 80° C. with a condenser and behind a blast shield. Cooled to room temperature after seventeen hours, transferred to a 300 mL flask and concentrated. The residue was triturated in water and filtered to yield the title product as a beige solid (5.1 g).

reactant | 5,7-Dimethyl-1-tetralone | 5.0 g | CC1=C2CCCC(C2=CC(=C1)C)=O | C12H14O
reactant | hydroxylamine hydrochloride | 2.2 g | Cl.NO
reactant | sodium carbonate monohydrate | 3.6 g | O.C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 5,7-dimethyl-3,4-dihydronaphthalen-1(2H)-one oxime | 5.1 g | CC1=C2CCCC(C2=CC(=C1)C)=NO | C12H15NO
